US05273999
Catalytic hydrogenation of 2-[6-(3,4-Dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)-5-hexynyloxy]benzenepropanoic acid methyl ester in methanol was carried out using the procedure of example 51. 2-[6-(3,4-Dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)hexyloxy]benzenepropanoic acid methyl ester was obtained as a colorless oil, in 86% yield.

reactant | 2-[6-(3,4-Dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)-5-hexynyloxy]benzenepropanoic acid methyl ester | COC(CCC1=C(C=CC=C1)OCCCCC#CC1=C(C2=C(C(CCO2)=O)C=C1)CCC)=O | C28H32O5
solvent | methanol | CO | CH4O
product | 2-[6-(3,4-Dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)hexyloxy]benzenepropanoic acid methyl ester | 86% yield | COC(CCC1=C(C=CC=C1)OCCCCCCC1=C(C2=C(C(CCO2)=O)C=C1)CCC)=O | C28H36O5
